US07989454B2
Step 1: 3-Benzyloxy-5-hydroxy-benzoic acid methyl ester
3,5-Dihydrobenzoic acid methyl ester (20.2 g) was dissolved in acetone (400 mL) and then potassium carbonate (16.6 g) and benzyl bromide (20.5 g) were added. The resulting mixture was refluxed for 3 h. Then the insoluble material was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified on a silica gel column using chloroform and methanol to yield 12.4 g (40% yield) of the title compound.

reactant | 3,5-Dihydrobenzoic acid methyl ester | 20.2 g | COC(C=1CCCCC1)=O | C8H12O2
reactant | potassium carbonate | 16.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 20.5 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | acetone | 400 mL | CC(=O)C | C3H6O
product | 3-Benzyloxy-5-hydroxy-benzoic acid methyl ester | 12.4 g, 40% yield | COC(C1=CC(=CC(=C1)O)OCC1=CC=CC=C1)=O | C15H14O4
